US05026856
283 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 300 mg of 4-(t-butyloxycarbonylaminomethyl)isoindoline, 300 mg of DBU, and 2 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 300 mg of 7-[4-(t-butyloxycarbonyl aminomethyl)-2-isoindolinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 283 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 4-(t-butyloxycarbonylaminomethyl)isoindoline | 300 mg | C(C)(C)(C)OC(=O)NCC1=C2CNCC2=CC=C1 | C14H20N2O2
reactant | DBU | 300 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-[4-(t-butyloxycarbonyl aminomethyl)-2-isoindolinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 300 mg | C(C)(C)(C)OC(=O)C(C1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)N | C27H27F2N3O5
